US06525042B1
1-[(6-Chloronaphthalen-2-yl]sulfonyl]-4-[(4-hydroxyquinolin-2-yl)carbonyl]piperazine hydrochloride
In a similar manner to Example 4 except for the use of 4-hydroxyquinoline-2-carboxylic acid and 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride as the raw materials, the reaction was conducted, whereby the title compound was obtained.

reactant | 4-hydroxyquinoline-2-carboxylic acid | OC1=CC(=NC2=CC=CC=C12)C(=O)O | C10H7NO3
reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1
product | 1-[(6-Chloronaphthalen-2-yl]sulfonyl]-4-[(4-hydroxyquinolin-2-yl)carbonyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C1=NC2=CC=CC=C2C(=C1)O | InChI=1S/C24H20ClN3O4S.ClH/c25-18-7-5-17-14-19(8-6-16(17)13-18)33(31,32)28-11-9-27(10-12-28)24(30)22-15-23(29)20-3-1-2-4-21(20)26-22;/h1-8,13-15H,9-12H2,(H,26,29);1H
